US08211908B2
To a solution of 83 mg of (7-cyano-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde and 80 mg of tert-butyl piperidin-4-yl-carbamate in 10 mL of chloroform, 24 μL of acetic acid was added, and the mixture was stirred at room temperature for 1.5 hours. To the reaction mixture, 136 mg of sodium triacetoxyborohydride was added, and the mixture was stirred for 1.5 hours. A saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using silica gel; Chromatorex-NH made by Fuji Silysia Chemical Ltd., and an eluent of ethyl acetate:hexane=1:1 to obtain 76 mg of tert-butyl (1-(2-(7-cyano-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate as a brown solid.

reactant | (7-cyano-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | 83 mg | C(#N)C1=CN=C2C=CC(N(C2=C1)CC=O)=O | C11H7N3O2
reactant | tert-butyl piperidin-4-yl-carbamate | 80 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | sodium triacetoxyborohydride | 136 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 24 μL | C(C)(=O)O | C2H4O2
product | tert-butyl (1-(2-(7-cyano-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 76 mg | C(#N)C1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C21H27N5O3
